US08685980B2
Following General Procedure D, 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.230 mmol) and 2-bromo propionic acid methyl ester (31 mL, 0.28 mmol) gave 2-{4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazin-1-yl}-propionic acid methyl ester (46 mg, 39%). MS (ESI) m/z 521.4 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.230 mmol, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | 2-bromo propionic acid methyl ester | 0.28 mmol, 31 mL | COC(C(C)Br)=O | C4H7BrO2
product | 2-{4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazin-1-yl}-propionic acid methyl ester | 46 mg, 39% | COC(C(C)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(=C2)C(N(C)C)=O)C2CCCC2)=O | C27H36N8O3
